US05741819
Preparation of N-BOC-m-xylylenediamine (24)
To 4.5 g (0.033 mol) of m-xylylenediamine in 100 mL of THF containing 6 mL (0.047 mmol) of N,N-diisopropylethylamine was added 3.0 g of di-t-butyldicarbonate. The reaction mixture was stirred for 10 min, quenched with 2N NaOH, extracted into methylene chloride. The organic phase was washed with water (5×), and then acidified with 10% citric acid. The aqueous phase was basified with 2N NaOH and then extracted with methylene chloride. The organic phase was dried (K2CO3) and concentrated to give 1.0 g of the title compound: NMR (CDCl3 ; 300 MHz) δ 7.31 (d, 1H), 7.27 (d, 1H), 7.23 (s, 1H), 7.18 (t, 1H), 4.87 (bs, 1H), 4.32 (d, 2H), 3.86 (s, 2H), 1.45 ppm (s, 9H).

reactant | m-xylylenediamine | 0.033 mol, 4.5 g | C1(=CC(=CC=C1)CN)CN | C8H12N2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-t-butyldicarbonate | 3.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | THF | 0.047 mmol, 100 mL | C1CCOC1 | C4H8O
product | N-BOC-m-xylylenediamine | 1.0 g | C(=O)(OC(C)(C)C)NCC1=CC(=CC=C1)CN | C13H20N2O2
